US08754111B2
Synthesis of 5-Dimethylamino-4-acetyl-penta-2,4-dienylidene-dimethylammonium tetrafluoroborate
Pyridinium tetrafluoroborate (2.21 g, 13.3 mmol) was added to a solution of (3E)-4-(dimethylamino)-3-buten-2-one (1.54 ml, 13.3 mmol) in 13.5 ml acetic anhydride/acetic acid (2:1). The resulting suspension was cooled to 0° C. and 3-dimethylaminoacroleine (1.33 ml, 13.3 mmol) was added over a period of 1 h under vigorous stirring and cooling with an ice bath receiving a red-brown precipitate. The cool reaction mixture was filtered and the remaining solid was washed with diethylether several times and dried under reduced pressure. The pentamethinium salt was obtained as orange crude product (2.69 g, 96%) and was used without any further purification.

reactant | Pyridinium tetrafluoroborate | 13.3 mmol, 2.21 g | F[B-](F)(F)F.[NH+]1=CC=CC=C1
reactant | (3E)-4-(dimethylamino)-3-buten-2-one | 13.3 mmol, 1.54 ml | CN(/C=C/C(C)=O)C | C6H11NO
reactant | 3-dimethylaminoacroleine | 13.3 mmol, 1.33 ml | CN(C=CC=O)C | C5H9NO
solvent | acetic anhydride acetic acid | 13.5 ml | C(C)(=O)OC(C)=O.C(C)(=O)O
product | 5-Dimethylamino-4-acetyl-penta-2,4-dienylidene-dimethylammonium tetrafluoroborate | 2.69 g, 96% | F[B-](F)(F)F.CN(C=C(C=CC=[N+](C)C)C(C)=O)C | InChI=1S/C11H19N2O.BF4/c1-10(14)11(9-13(4)5)7-6-8-12(2)3;2-1(3,4)5/h6-9H,1-5H3;/q+1;-1
